US06239147B1
(i) 2-(2-Bromo-5-methoxyphenyl)ethanol
To a stirred mixture of 3-methoxyphenethyl alcohol (1.18 g, 7.8 mmol) and pyridine (0.75 ml, 9.3 mmol) in dry dichloromethane (10 ml) was added bromine (0.47 ml, 18.0 mmol) dropwise under nitrogen at 0° C. The orange solution was stirred at room temperature for 4 hours (hr). The reaction mixture was quenched by the addition of 10% sodium bisulfite aqueous solution., and extracted with dichloromethane. The organic extracts were washed with brine, dried over magnesium sulfate, and concentrated to give crude products, which were purified by silica-gel column chromatography eluted with gradient of hexane and ethyl acetate (10:1, 8:1, 5:1) to give the title compound as a colorless oil (1.5 g, 83.2%). 1H-NMR (CDCl3): 7.43 (d, J=8.8 Hz, 1H), 6.83 (d, J=3.3 Hz, 1H), 6.67 (dd, J=8,8, 3.3 Hz, 1H), 3.91-3.81 (m, 2H), 3.78 (s, 3H), 2.99 (t, J=6.6 Hz, 2H).

reactant | 3-methoxyphenethyl alcohol | 7.8 mmol, 1.18 g | COC=1C=C(CCO)C=CC1 | C9H12O2
reactant | pyridine | 9.3 mmol, 0.75 ml | N1=CC=CC=C1 | C5H5N
reactant | bromine | 18.0 mmol, 0.47 ml | BrBr | Br2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(2-Bromo-5-methoxyphenyl)ethanol | 1.5 g, 83.2% | BrC1=C(C=C(C=C1)OC)CCO | C9H11BrO2
